US04187303
26.5 g (0.109 mol) of 3-chloromethyl-N-methyl-4-thiophenesulfonamide and 21.3 g (0.328 mol) of potassium cyanide are warmed to 80° C. for 20 minutes in 130 ml of triethyleneglycol. Thereafter, the mixture is poured into 200 ml of 2-N hydrochloric acid and 200 g of ice and extracted with three 250 ml portions of methylene chloride. The combined organic phases are dried over sodium sulfate, stirred with 3 g of active carbon, filtered and evaporated. There is obtained 3-cyanomethyl-N-methyl-4-thiophenesulfonamide in the form of a non-crystallizing oil which is used in the next step without further purification.

reactant | 3-chloromethyl-N-methyl-4-thiophenesulfonamide | 0.109 mol, 26.5 g | ClCC1=CSC=C1S(=O)(=O)NC | C6H8ClNO2S2
reactant | potassium cyanide | 0.328 mol, 21.3 g | [C-]#N.[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | triethyleneglycol | 130 ml | C(COCCOCCO)O | C6H14O4
product | 3-cyanomethyl-N-methyl-4-thiophenesulfonamide | C(#N)CC1=CSC=C1S(=O)(=O)NC | C7H8N2O2S2
